US07091227B2
0.2 g of [2-(3-ethyl-5-methyl-2-oxo-1,3,5-triazinan-1-yl)-6-nitro-1,3-benzothiazol-7-yl]methyl cyanide was charged into about 2 ml dimethylformamide. About 15 equivalents of triethylamine were then added followed by about 15 equivalents of trimethylsilyl chloride. The solution was stirred at room temperature for about 4–20 hours. The reaction was quenched by pouring into dilute aqueous hydrochloric acid then extracted well with ethyl acetate. The combined organics were back extracted with dilute sodium bicarbonate then dried over magnesium sulfate and concentrated. The dark oil was further purified by preparative HPLC to yield 2-(3-ethyl-5-methyl-2-oxo-1,3,5-triazinan-1-yl) [1,3]thiazolo[5′,4′: 3,4]benzo[c]isoxazol-8-yl cyanide.

reactant | [2-(3-ethyl-5-methyl-2-oxo-1,3,5-triazinan-1-yl)-6-nitro-1,3-benzothiazol-7-yl]methyl cyanide | 0.2 g | C(C)N1C(N(CN(C1)C)C=1SC2=C(N1)C=CC(=C2CC#N)[N+](=O)[O-])=O | C15H16N6O3S
reactant | triethylamine | 15 equivalents | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | about 15 equivalents | C[Si](C)(C)Cl | C3H9ClSi
solvent | dimethylformamide | about 2 ml | CN(C=O)C | C3H7NO
product | 2-(3-ethyl-5-methyl-2-oxo-1,3,5-triazinan-1-yl) [1,3]thiazolo[5′,4′: 3,4]benzo[c]isoxazol-8-yl cyanide | C(C)N1C(N(CN(C1)C)C=1SC2=C(C=CC3=NOC(=C32)C#N)N1)=O | C15H14N6O2S
